US08071651B2
d) 6-Oxaspiro[2.5]octane-1-carboxylic acid
A solution of 120.50 g of ethyl 6-oxaspiro[2.5]-octane-1-carboxylate in 700 ml of ethanol/water 3.5:1 is mixed with 55.20 g of potassium hydroxide. The reaction mixture is heated at 60° C. for 4 hours, the ethanol is distilled off and the aqueous residue is diluted with water and extracted with tert-butyl methyl ether. The aqueous phase is adjusted to pH 2 with 4M hydrochloric acid and extracted with tert-butyl methyl ether. The combined organic extracts are washed with brine, dried with sodium sulphate and evaporated. The title compound is obtained as a yellowish oil and is employed without further purification for the next stage. Rt=2.13 (Gradient I).

reactant | ethyl 6-oxaspiro[2.5]-octane-1-carboxylate | 120.50 g | C1(CC12CCOCC2)C(=O)OCC | C10H16O3
reactant | potassium hydroxide | 55.20 g | [OH-].[K+]
solvent | ethanol water | 700 ml | C(C)O.O
product | 6-Oxaspiro[2.5]octane-1-carboxylic acid | C1(CC12CCOCC2)C(=O)O | C8H12O3
